US07282608B2
Step 1: 4-[3-(3,4-dichloro-phenyl)-acryloyl]-benzoic acid (IIa)
To a stirred suspension at room temperature of 4-acetylbenzoic acid (1.71 g, 10.44 mmol), 3,4-dichlorobenzaldehyde (2.05 g, 11.49 mmol) or aldehyde (1.1 equiv.) in MeOH (50 ml) was added a solution of NaOH (26.1 ml, 1N in H2O). After 19 h, the reaction mixture was filtered off, rinsed with MeOH and dried to afford the title compound IIa (3.22 g, 10.03 mmol, 96% yield) as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ(ppm): 8.35 (s, 1H), AB system (δA=8.13, δB=8.01, J=8.4 Hz, 4H), 8.12 (d, J=15.8 Hz, 1H), 7.93 (d, J=7.9 Hz, 1H), 7.76 (d, J=8.3 Hz, 1H, 7.73 (d, 15.8 Hz, 1H).

reactant | 4-acetylbenzoic acid | 10.44 mmol, 1.71 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | 3,4-dichlorobenzaldehyde | 11.49 mmol, 2.05 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | NaOH | 1N, 26.1 ml | [OH-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
product | 4-[3-(3,4-dichloro-phenyl)-acryloyl]-benzoic acid | 96% yield | ClC=1C=C(C=CC1Cl)C=CC(=O)C1=CC=C(C(=O)O)C=C1 | C16H10Cl2O3
